US08466282B2
Tert-butyl (3S,5R)-3-[{[5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
5-(4-Methoxybutyl)-1-phenyl-1H-1,2,3-triazole-4-carboxylic acid (138 mg), tert-butyl (3S,5R)-3-[(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (185 mg) and N,N-diisopropylethylamine (345 μl) were dissolved in 1,2-dichloroethane (5 ml), chloro-N,N,N′,N′-tetramethylformamidinium hexafluorophosphate (154 mg) was added and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with saturated aqueous sodium hydrogen carbonate solution and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (10:90-100:0) was concentrated under reduced pressure to give the object product (235 mg) as an amorphous compound.

reactant | 5-(4-Methoxybutyl)-1-phenyl-1H-1,2,3-triazole-4-carboxylic acid | 138 mg | COCCCCC1=C(N=NN1C1=CC=CC=C1)C(=O)O | C14H17N3O3
reactant | tert-butyl (3S,5R)-3-[(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 185 mg | CC(CN[C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)C | C19H35N3O4
reactant | N,N-diisopropylethylamine | 345 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloro-N,N,N′,N′-tetramethylformamidinium hexafluorophosphate | 154 mg | F[P-](F)(F)(F)(F)F.ClC(=[N+](C)C)N(C)C
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | Tert-butyl (3S,5R)-3-[{[5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 235 mg | COCCCCC1=C(N=NN1C1=CC=CC=C1)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C | C33H50N6O6
